US08114872B2
{5-Fluoro-4-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzo[b]thiophen-2-yl]-pyrimidin-2-yl}-(2-[1,2,3]triazol-1-yl-ethyl)-amine
Combine [4-(7-bromo-benzo[b]thiophen-2-yl)-5-fluoro-pyrimidin-2-yl]-(2-[1,2,3]triazol-1-yl-ethyl)-amine (1.5 g, 3.45 mmol), bis(pinacolato)diboron (1.05 g, 4.14 mmol), potassium acetate (1.02 g, 10.36 mmol), and Pd(dppf)Cl2 (280 mg, 0.35 mmol) in DMSO (30 mL). Degas the resulting mixture three times and heat it to 80° C. overnight. Cool the mixture to RT and pour it into water. Filter to get a wet solid, dissolve in chloroform/IPA (3:1, v/v), wash with saturated aqueous sodium chloride and then dry over sodium sulfate. Concentrate the solution in vacuo. Purify by chromatography (hexane to ethyl acetate) to afford the title compound (1.3 g, 81%).

reactant | [4-(7-bromo-benzo[b]thiophen-2-yl)-5-fluoro-pyrimidin-2-yl]-(2-[1,2,3]triazol-1-yl-ethyl)-amine | 3.45 mmol, 1.5 g | BrC1=CC=CC2=C1SC(=C2)C2=NC(=NC=C2F)NCCN2N=NC=C2 | C16H12BrFN6S
reactant | bis(pinacolato)diboron | 4.14 mmol, 1.05 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 10.36 mmol, 1.02 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | chloroform IPA | C(Cl)(Cl)Cl.CC(C)O
catalyst | Pd(dppf)Cl2 | 0.35 mmol, 280 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {5-Fluoro-4-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzo[b]thiophen-2-yl]-pyrimidin-2-yl}-(2-[1,2,3]triazol-1-yl-ethyl)-amine | 1.3 g, 81% | FC=1C(=NC(=NC1)NCCN1N=NC=C1)C1=CC2=C(S1)C(=CC=C2)B2OC(C(O2)(C)C)(C)C | C22H24BFN6O2S
